** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/final_one_bit_sram.sch
**.subckt final_one_bit_sram
x1 prec blb bl VDD precharge
x2 read_en blb bl VDD dout sense_amplifier
x4 write_en blb bl VDD din write_driver
x3 wl VDD blb bl Q QB six_t
**** begin user architecture code


**** begin user architecture code
**change tt at end of .lib line to ss and ff
.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

*------------------------------------------------------------------------------
* SUPPLIES
*------------------------------------------------------------------------------

V1 vdd gnd dc 1.8

.ic v(Q)=1.8 v(QB)=0

Cbl  bl  gnd 400f
Cblb blb gnd 400f


*------------------------------------------------------------------------------
* PRECHARGE (active LOW)
*------------------------------------------------------------------------------
Vprec prec gnd PWL
+0n      0
+5.00n   0
+5.06n   1.8

+20.00n  1.8
+20.06n 0
+25.00n 0
+25.06n 1.8

+40.00n  1.8
+40.06n 0
+45.00n  0
+45.06n  1.8

+60.00n  1.8
+60.06n 0
+65.00n  0
+65.06n  1.8

+80.00n  1.8
+80.06n 0
+85.00n  0
+85.06n  1.8

+100n     1.8
*----------------
Vwl wl gnd PWL
+0n        0

* Write 1
+10.12n    0
+10.18n    1.8
+16.12n    1.8
+16.18n    0

* Read
+50.12n    0
+50.18n    1.8
+51.00n    1.8
+51.06n    0

* Write 0
+70.12n    0
+70.18n    1.8
+76.12n    1.8
+76.18n    0

* Read
+90.12n    0
+90.18n    1.8
+91.00n    1.8
+91.06n    0

+100n      0
*--------------------------
Vwrite_en write_en gnd PWL
+0n        0

* Write 1
+10.26n    0
+10.32n    1.8
+13.26n    1.8
+13.32n    0

* Write 0
+70.26n    0
+70.32n    1.8
+73.26n    1.8
+73.32n    0

+100n      0
*-----------------------------
Vread_en read_en gnd PWL
+0n         0

* Read 1
+50.26n     0
+50.32n     1.8
+53.26n     1.8
+53.32n     0

* Read 0
+90.26n     0
+90.32n     1.8
+93.26n     1.8
+93.32n     0

+100n       0
*---------------------------
Vdin din gnd PWL
+0n       0
+60.00n   0
+60.06n   1.8
+100n     1.8
*------------------------------------------------------------------------------
* SIMULATION
*------------------------------------------------------------------------------

.tran 0.1p 100n
.temp 27
*==============================================================================
* 1. WRITE DELAY
*==============================================================================

*------------------------------------------------------------------------------
* WRITE 0 @ ~10 ns
*
* Initial:
* Q = 1.8 V
*
* Final:
* Q = 0 V
*------------------------------------------------------------------------------

* 50%-to-50% write delay
.meas tran t_write0_50
+ TRIG v(wl) VAL=0.9 RISE=1 TD=9n
+ TARG v(Q)  VAL=0.9 FALL=1 TD=9n

* Write completion:
* WL @ 50% -> Q reaches 10% VDD
.meas tran t_write0_10
+ TRIG v(wl) VAL=0.9 RISE=1 TD=9n
+ TARG v(Q)  VAL=0.18 FALL=1 TD=9n


*------------------------------------------------------------------------------
* WRITE 1 @ ~70 ns
*
* Initial:
* Q = 0 V
*
* Final:
* Q = 1.8 V
*------------------------------------------------------------------------------

* 50%-to-50% write delay
.meas tran t_write1_50
+ TRIG v(wl) VAL=0.9 RISE=1 TD=69n
+ TARG v(Q)  VAL=0.9 RISE=1 TD=69n

* Write completion:
* WL @ 50% -> Q reaches 90% VDD
.meas tran t_write1_90
+ TRIG v(wl) VAL=0.9 RISE=1 TD=69n
+ TARG v(Q)  VAL=1.62 RISE=1 TD=69n


*==============================================================================
* 2. FUNCTIONAL STATE VERIFICATION
*==============================================================================

* After WRITE 0
* Expected Q ~ 0 V, QB ~ 1.8 V
.meas tran q_after_write0
+ FIND v(Q) AT=18n

.meas tran qb_after_write0
+ FIND v(QB) AT=18n


* During READ 0
.meas tran q_during_read0
+ FIND v(Q) AT=52n

.meas tran qb_during_read0
+ FIND v(QB) AT=52n

.meas tran dout_read0
+ FIND v(dout) AT=52n


* After WRITE 1
* Expected Q ~ 1.8 V, QB ~ 0 V
.meas tran q_after_write1
+ FIND v(Q) AT=78n

.meas tran qb_after_write1
+ FIND v(QB) AT=78n


* During READ 1
.meas tran q_during_read1
+ FIND v(Q) AT=92n

.meas tran qb_during_read1
+ FIND v(QB) AT=92n

.meas tran dout_read1
+ FIND v(dout) AT=92n


*==============================================================================
* 3. READ ACCESS TIME
*==============================================================================

*------------------------------------------------------------------------------
* READ 0
*
* DOUT is already LOW before READ 0 in the present output architecture.
* Therefore there is no meaningful HIGH -> LOW propagation transition.
*
* Functional correctness is verified using dout_read0.
*------------------------------------------------------------------------------


*------------------------------------------------------------------------------
* READ 1 @ ~90 ns
*
* read_en 50% -> DOUT 50%
*------------------------------------------------------------------------------

.meas tran t_read1_50
+ TRIG v(read_en) VAL=0.9 RISE=1 TD=89n
+ TARG v(dout)    VAL=0.9 RISE=1 TD=89n


* read_en 50% -> DOUT 90%
.meas tran t_read1_90
+ TRIG v(read_en) VAL=0.9 RISE=1 TD=89n
+ TARG v(dout)    VAL=1.62 RISE=1 TD=89n


*==============================================================================
* 4. READ DISTURB
*==============================================================================

*------------------------------------------------------------------------------
* READ 0 @ ~50 ns
*
* Stored state:
* Q  = LOW
* QB = HIGH
*
* Therefore Q is the vulnerable LOW storage node.
*------------------------------------------------------------------------------

.meas tran q_before_read0 AVG v(Q)
+ FROM=49n TO=50n

.meas tran q_read0_max MAX v(Q)
+ FROM=50.18n TO=51.06n

.meas tran read0_disturb
+ PARAM='q_read0_max-q_before_read0'


*------------------------------------------------------------------------------
* READ 1 @ ~90 ns
*
* Stored state:
* Q  = HIGH
* QB = LOW
*
* Therefore QB is the vulnerable LOW storage node.
*------------------------------------------------------------------------------

.meas tran qb_before_read1 AVG v(QB)
+ FROM=89n TO=90n

.meas tran qb_read1_max MAX v(QB)
+ FROM=90.18n TO=91.06n

.meas tran read1_disturb
+ PARAM='qb_read1_max-qb_before_read1'


*==============================================================================
* 5. BITLINE DIFFERENTIAL
*==============================================================================

* READ 0
.meas tran bl_read0
+ FIND v(bl) AT=50.8n

.meas tran blb_read0
+ FIND v(blb) AT=50.8n

.meas tran delta_bl_read0
+ PARAM='abs(bl_read0-blb_read0)'


* READ 1
.meas tran bl_read1
+ FIND v(bl) AT=90.8n

.meas tran blb_read1
+ FIND v(blb) AT=90.8n

.meas tran delta_bl_read1
+ PARAM='abs(bl_read1-blb_read1)'


*==============================================================================
* 6. STANDBY LEAKAGE
*==============================================================================

*------------------------------------------------------------------------------
* Stored 0
* Quiet interval after WRITE 0
*------------------------------------------------------------------------------

.meas tran ileak0 AVG i(V1)
+ FROM=30n TO=39n

.meas tran ileak0_abs
+ PARAM='abs(ileak0)'

.meas tran pleak0
+ PARAM='1.8*abs(ileak0)'


*------------------------------------------------------------------------------
* Stored 1
* Quiet interval after WRITE 1
*------------------------------------------------------------------------------

.meas tran ileak1 AVG i(V1)
+ FROM=77n TO=79n

.meas tran ileak1_abs
+ PARAM='abs(ileak1)'

.meas tran pleak1
+ PARAM='1.8*abs(ileak1)'


*==============================================================================
* 7. ACTIVE-WINDOW ENERGY
*==============================================================================

* WRITE 0
.meas tran e_write0
+ INTEG par('abs(v(vdd)*i(V1))')
+ FROM=10n TO=16.5n


* READ 0
.meas tran e_read0
+ INTEG par('abs(v(vdd)*i(V1))')
+ FROM=50n TO=53.5n


* WRITE 1
.meas tran e_write1
+ INTEG par('abs(v(vdd)*i(V1))')
+ FROM=70n TO=76.5n


* READ 1
.meas tran e_read1
+ INTEG par('abs(v(vdd)*i(V1))')
+ FROM=90n TO=93.5n


*==============================================================================
* 8. HOLD / RETENTION CHECK
*==============================================================================

* Hold stored 0
.meas tran q_hold0_avg AVG v(Q)
+ FROM=30n TO=39n

.meas tran qb_hold0_avg AVG v(QB)
+ FROM=30n TO=39n


* Hold stored 1
.meas tran q_hold1_avg AVG v(Q)
+ FROM=77n TO=79n

.meas tran qb_hold1_avg AVG v(QB)
+ FROM=77n TO=79n


*==============================================================================
* SAVE / CONTROL
*==============================================================================

.save all

.control

run

plot bl+2 blb
plot prec+8 wl+6
plot write_en+4 read_en+2
plot Q+2 QB
plot dout

.endc

**** end user architecture code


**** end user architecture code
**.ends

* expanding   symbol:  precharge.sym # of pins=4
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/precharge.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/precharge.sch
.subckt precharge precharge blb bl VDD
*.ipin precharge
*.iopin bl
*.iopin blb
*.ipin VDD
XM1 blb precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM2 bl precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM3 blb precharge bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
.ends


* expanding   symbol:  sense_amplifier.sym # of pins=5
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/sense_amplifier.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/sense_amplifier.sch
.subckt sense_amplifier read_en blb bl VDD dout
*.ipin VDD
*.iopin bl
*.iopin blb
*.ipin read_en
*.opin dout
XM1 net1 net2 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM2 net1 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM3 net2 net1 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM5 net4 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM6 net4 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM7 net1 read_en_b blb VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM8 net2 read_en_b bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM9 net3 read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM10 dout_b net2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM11 dout_b net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM12 read_en_b read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM13 read_en_b read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM14 dout read_en net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM15 net4 read_en_b dout vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM16 dout read_en_b 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM17 net2 read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM18 net1 read_en VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  write_driver.sym # of pins=5
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/write_driver.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/write_driver.sch
.subckt write_driver write_en blb bl VDD din
*.ipin VDD
*.ipin write_en
*.ipin din
*.iopin bl
*.iopin blb
XM3 net1 din 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 net1 din VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM5 net2 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM8 net3 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM9 net4 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM7 bl net1 net3 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM10 blb net2 net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  six_t.sym # of pins=6
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t.sch
.subckt six_t wl VDD blb bl Q QB
*.iopin bl
*.opin Q
*.opin QB
*.ipin wl
*.ipin VDD
*.iopin blb
XM3 QB Q 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 QB wl blb 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 Q wl bl 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 Q QB VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 QB Q VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM1 Q QB 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL wl
.GLOBAL Q
.GLOBAL QB
.GLOBAL prec
.GLOBAL read_en
.GLOBAL dout
.GLOBAL din
.GLOBAL write_en
.GLOBAL vdd
.end
